US05705670
973 g (6.4 mol) of propanephosphonic acid dimethyl ester are heated to 90° C. and 1280 g (6.4 mol) of 20% strength sodium hydroxide solution are added dropwise, while stirring vigorously. During this procedure, the temperature is increased slowly to 110° C., and at the same time 238 g of a methanol/water mixture distill off over a Vigreux column. The resulting solution is evaporated in vacuo and the residue which remains is dried in a vacuum drying cabinet. 1020 g of propanephosphonic acid monomethyl ester sodium salt are obtained with a purity of 92%, according to 31-P-NMR. This corresponds to a yield of about 100%.

reactant | propanephosphonic acid dimethyl ester | 6.4 mol, 973 g | COP(OC)(=O)CCC | C5H13O3P
reactant | sodium hydroxide | [OH-].[Na+]
product | propanephosphonic acid monomethyl ester sodium salt | 1020 g, yield of about 100% | [Na+].COP([O-])(=O)CCC | InChI=1S/C4H11O3P.Na/c1-3-4-8(5,6)7-2;/h3-4H2,1-2H3,(H,5,6);/q;+1/p-1
